US04617307
5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
A solution of 2.01 g of 5-p-formylphenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine and 0.96 g of hydrazoic acid in 30 ml of benzene is maintained by external cooling at room temperature, while 0.8 ml of concentrated sulfuric acid is added dropwise. The reaction mixture is stirred for 2 hours and neutralized. The organic phase is separated, dried over sodium sulfate and evaporated to yield an oil which is chromatographed on silica gel with ethyl acetate to yield the title compound.

reactant | 5-p-formylphenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 2.01 g | C(=O)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H14N2O
reactant | hydrazoic acid | 0.96 g | N=[N+]=[N-] | HN3
reactant | sulfuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
